US04125732
Methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
A mixture of 33.5 g of methyl{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate and 19.6 g of N-bromosuccinimide in 400 ml of carbon tetrachloride is refluxed for 24 hours or until the reaction is complete. The mixture is cooled, filtered and the filtrate passed through a column of silica gel with carbon tetrachloride as eluent to give 27.2 g of product as an oil. Crystallization from petroleum ether gives white crystals, mp 49°-53° C.

reactant | methyl{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 33.5 g | COC(CC1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)=O | C18H19ClO4
reactant | N-bromosuccinimide | 19.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 27.2 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
